US07176227B2
Synthesis of 4-(5-t-butoxycarbonylamino pentanoylamino)-3-propylaminobenzoic acid methyl ester
In chloroform (10 ml), 5-t-butoxycarbonylaminovaleric acid (574 mg), WSCI hydrochloride (690 mg), and HOBt (487 mg) were dissolved. Then, the resulting solution was stirred at room temperature for 30 minutes. The solution was added with 4-amino-3-propylaminobenzoic acid methyl (503 mg) and stirred overnight at room temperature. After completion of the reaction, the solvent was distilled off under reduced pressure and the residue was then dissolved in chloroform. After having been washed with a saturated aqueous sodium bicarbonate solution, a saturated aqueous ammonium chloride solution, and saturated saline solution, the solution was dried with anhydrous sodium sulfate. After filtration, the solvent was distilled off under reduced pressure and the residue was then purified through silica gel column chromatography (chloroform/ethyl acetate), thereby obtaining the subject compound (540 mg) as a colorless viscous substance.

reactant | 5-t-butoxycarbonylaminovaleric acid | 574 mg | C(C)(C)(C)OC(=O)NCCCCC(=O)O | C10H19NO4
reactant | WSCI hydrochloride | 690 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 487 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(5-t-butoxycarbonylamino pentanoylamino)-3-propylaminobenzoic acid methyl ester | 540 mg | COC(C1=CC(=C(C=C1)NC(CCCCNC(=O)OC(C)(C)C)=O)NCCC)=O | C21H33N3O5
